************************************************************************
* auCdl Netlist:
* 
* Library Name:  CCI
* Top Cell Name: NOR2
* View Name:     schematic
* Netlisted on:  Sep 24 06:59:20 2022
************************************************************************

.INCLUDE  /pdk/tsmc/TSMC180/180/CMOS/G/IO3.3V/pdk/T-018-CM-SP-018-K3_1_0a_bsim4.5_pdk_IC61_20100730/tsmc180_pdk/tsmc18/../Calibre/lvs/source.added
*.EQUATION
*.SCALE METER
*.MEGA
.PARAM



************************************************************************
* Library Name: CCI
* Cell Name:    NOR2
* View Name:    schematic
************************************************************************

.SUBCKT NOR2 A B GND OUT VDD
*.PININFO A:I B:I OUT:O GND:B VDD:B
MM0 net010 A VDD VDD P l=180.0n w=4u m=1
MM1 OUT B net010 VDD P l=180.0n w=4u m=1
MM11 OUT B GND GND N l=180.0n w=1u m=1
MM12 OUT A GND GND N l=180.0n w=1u m=1
.ENDS

