************************************************************************
* auCdl Netlist:
* 
* Library Name:  CCI
* Top Cell Name: XOR2
* View Name:     schematic
* Netlisted on:  Sep 25 03:06:30 2022
************************************************************************

.INCLUDE  /pdk/tsmc/TSMC180/180/CMOS/G/IO3.3V/pdk/T-018-CM-SP-018-K3_1_0a_bsim4.5_pdk_IC61_20100730/tsmc180_pdk/tsmc18/../Calibre/lvs/source.added
*.EQUATION
*.SCALE METER
*.MEGA
.PARAM



************************************************************************
* Library Name: CCI
* Cell Name:    XOR2
* View Name:    schematic
************************************************************************

.SUBCKT XOR2 A B GND OUT VDD
*.PININFO A:I B:I OUT:O GND:B VDD:B
MM12 !B B VDD VDD P l=180.0n w=4u m=1
MM11 !A A VDD VDD P l=180.0n w=4u m=1
MM3 OUT A net028 VDD P l=180.0n w=4u m=1
MM2 net028 !B VDD VDD P l=180.0n w=4u m=1
MM1 OUT B net033 VDD P l=180.0n w=4u m=1
MM0 net033 !A VDD VDD P l=180.0n w=4u m=1
MM13 !B B GND GND N l=180.0n w=2u m=1
MM14 !A A GND GND N l=180.0n w=2u m=1
MM7 net29 !B GND GND N l=180.0n w=2u m=1
MM6 OUT !A net29 GND N l=180.0n w=2u m=1
MM5 net030 B GND GND N l=180.0n w=2u m=1
MM4 OUT A net030 GND N l=180.0n w=2u m=1
.ENDS

